US07470680B2
dimethyl 2-(3-fluoro-2-nitrophenyl)malonate.
1,3-Difluoro-2-nitrobenzene (2.83 g, 17.79 mmol) was dissolved in N,N-dimethylformamide (25 mL). Potassium carbonate (2.49 g, 18.02 mmol) was added to the mixture followed by dimethyl malonate (2.033 ml, 17.79 mmol). Mixture was warmed to 65° C. and held for 24 hours. Mixture was cooled to room temperature. Reaction was quenched with 1N hydrochloric acid. Material was extracted three times with diethyl ether and the aqueous phase was discarded. Material was washed twice with water and the aqueous phase was discarded. Material was washed with brine and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Residue was crystallized with hexanes. Solids were filtered off and washed with hexanes. Title compound was obtained as yellow crystals in 52% yield. MS (M−H)−=270.1.

reactant | 1,3-Difluoro-2-nitrobenzene | 17.79 mmol, 2.83 g | FC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | Potassium carbonate | 18.02 mmol, 2.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl malonate | 17.79 mmol, 2.033 ml | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | dimethyl 2-(3-fluoro-2-nitrophenyl)malonate | 52% yield | FC=1C(=C(C=CC1)C(C(=O)OC)C(=O)OC)[N+](=O)[O-] | C11H10FNO6
